US04247548
Benzhydryl 3-hydroxyisoxazol-5-ylacetate
To an ice-cooled solution of 5.72 g (40 mmoles) of 3-hydroxyisoxazol-5-ylacetic acid in 50 ml of acetone was added dropwise a solution of 7.76 g (40 mmoles) of diphenyldiazomethane in 50 ml of acetone. The mixture was stirred for 1 hour in an ice bath. After confirming that the red colour of the diphenyldiazomethane had disappeared, the solvent was distilled off under reduced pressure and 100 ml of diisopropyl ether were added to the residue to precipitate crystals of the title compound, melting point 105°-106° C. The yield was 9.3 g (75% of theory).

reactant | 3-hydroxyisoxazol-5-ylacetic acid | 40 mmoles, 5.72 g | OC1=NOC(=C1)CC(=O)O | C5H5NO4
reactant | diphenyldiazomethane | 40 mmoles, 7.76 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | Benzhydryl 3-hydroxyisoxazol-5-ylacetate | OC1=NOC(=C1)CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15NO4
